US08563575B2
To a mixture of 4-(benzyloxy)aniline hydrochloride (4.10 g) and 2-chloro-5-methyl-3-nitropyridine (3.0 g) in DMF (30 mL) was added TEA (7.27 mL) at room temperature, and the mixture was stirred at room temperature for 2 h. The mixture was heated to 60° C. After stirring at 60° C. overnight, K2CO3 (4.81 g) was added to the mixture. The mixture was heated to 100° C. and stirred at 100° C. overnight. The mixture was poured into water and the mixture was extracted with AcOEt. The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (dry charge, silica gel, eluted with 5%-30% AcOEt in hexane) to give N-[4-(benzyloxy)phenyl]-5-methyl-3-nitropyridin-2-amine (1.33 g) as a red solid.

reactant | 4-(benzyloxy)aniline hydrochloride | 4.10 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 2-chloro-5-methyl-3-nitropyridine | 3.0 g | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | K2CO3 | 4.81 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-[4-(benzyloxy)phenyl]-5-methyl-3-nitropyridin-2-amine | 1.33 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1[N+](=O)[O-])C | C19H17N3O3
